US06610685B2
e) 6-Ethoxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene
a solution of 64.00 g 2,3-dihydro-1H-3a-aza-cyclopenta[a]inden-6-ol in 240 mL N,N-dimethylformamide was added over 10 min to a cooled (0° C.) suspension of 17.73 g (0.406 mol) sodium hydride (55% in oil) in 400 mL N,N-dimethylformamide. The mixture was stirred at 0° C. for 30 min. To the resulting mixture was added 32.84 mL (63.39 g, 0.406mol) ethyl iodide dropwise over 10 min. The mixture was stirred at room temperature for 1 h. The mixture was partitioned between ice-water and ethyl acetate. The phases were separated and the organic phase was washed with 10% citric acid, 10% sodium bicarbonate solution and brine. The aqueous phases were re-extracted with ethyl acetate. The combined organic phases were dried over magnesium sulfate and evaporated to dryness. The solid residue was stirred with 600 mL n-hexane for 1 h and the product collected by filtration. The filtrate was concentrated to obtain a second crop of product, to afford a combined yield of 66.4 g (89.3%) of the title compound as white crystals melting at 101-102° C.

reactant | 2,3-dihydro-1H-3a-aza-cyclopenta[a]inden-6-ol | 64.00 g | C1CCN2C1=CC=1C=C(C=CC21)O | C11H11NO
reactant | sodium hydride | 0.406 mol, 17.73 g | [H-].[Na+]
reactant | ethyl iodide | 0.406mol, 32.84 mL, 63.39 g | C(C)I | C2H5I
solvent | N,N-dimethylformamide | 240 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 400 mL | CN(C=O)C | C3H7NO
product | 6-Ethoxy-2,3-dihydro-1H-3a-aza-cyclopenta[a]indene | yield of 66.4 g, 89.3% | C(C)OC1=CC=2C=C3N(C2C=C1)CCC3 | C13H15NO
